### PR TITLE
[Merged by Bors] - feat: define `curveIntegral`

### PR DESCRIPTION
**Pull request by urkud**
Define the integral of a 1-form along a (piecewise smooth) path in a normed space.

This is a step towards a formalization of the Poincaré lemma for 1-forms.

---

- [x] depends on: #24831
- [x] depends on: #25047
- [x] depends on: #25048

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,475 @@
...
+theorem pathIntegral_fun_add (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
+    ∫ᵖ x in γ, ω₁ x + ω₂ x = (∫ᵖ x in γ, ω₁ x) + ∫ᵖ x in γ, ω₂ x :=
+  pathIntegral_add h₁ h₂
+
+@[simp]
+theorem pathIntegralFun_zero : pathIntegralFun (0 : E → E →L[𝕜] F) γ = 0 := by
+  ext; simp [pathIntegralFun]
+
+@[simp]
+theorem pathIntegralFun_fun_zero : pathIntegralFun (fun _ ↦ 0 : E → E →L[𝕜] F) γ = 0 :=
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:317]:
```suggestion
theorem pathIntegralFun_fun_zero : pathIntegralFun (fun _ ↦ 0 : E → E →L[𝕜] F) γ = 0 :=
```

**Comment by urkud** [comment]
@sgouezel What are the right assumptions for (not yet formalized)
- `pathIntegral_reparam`?
- `pathIntegral_map`?

**Comment by sgouezel** [comment]
The super-right assumption is probably to assume that the reparametrization is an absolutely continuous homeo, but I don't think we have that in mathlib. A very good assumption is to assume that the reparametrization is Lipschitz and increasing. But just doing it for C^1 would already be the main use case.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,489 @@
...
+  unfold pathIntegralFun
+  rw [Path.extend_cast]
+
+@[simp]
+theorem pathIntegral_cast (ω : E → E →L[𝕜] F) (γ : Path a b) (hc : c = a) (hd : d = b) :
+    ∫ᵖ x in γ.cast hc hd, ω x = ∫ᵖ x in γ, ω x := by
+  simp [pathIntegral]
+
+@[simp]
+theorem PathIntegrable.cast_iff (hc : c = a) (hd : d = b) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:146]:
```suggestion
theorem pathIntegrable_cast_iff (hc : c = a) (hd : d = b) :
```

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,489 @@
...
+theorem pathIntegrable_symm : PathIntegrable ω γ.symm ↔ PathIntegrable ω γ :=
+  ⟨fun h ↦ by simpa using h.symm, .symm⟩
+
+@[simp]
+theorem pathIntegral_symm (ω : E → E →L[𝕜] F) (γ : Path a b) :
+    ∫ᵖ x in γ.symm, ω x = -∫ᵖ x in γ, ω x := by
+  simp [pathIntegral, pathIntegralFun_symm]
+
+theorem pathIntegralFun_trans_of_lt_half (ω : E → E →L[𝕜] F) (γab : Path a b) (γbc : Path b c)
+    (ht₀ : 0 < t) (ht : t < 1 / 2) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:174]: Do you really need `ht0` here?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,489 @@
...
+
+theorem pathIntegralFun_trans_aeeq_left (ω : E → E →L[𝕜] F) (γab : Path a b) (γbc : Path b c) :
+    pathIntegralFun ω (γab.trans γbc) =ᵐ[volume.restrict (Ι (0 : ℝ) (1 / 2))]
+      fun t ↦ (2 : ℕ) • pathIntegralFun ω γab (2 * t) := by
+  rw [uIoc_of_le (by positivity), ← restrict_Ioo_eq_restrict_Ioc]
+  filter_upwards [ae_restrict_mem measurableSet_Ioo] with t ⟨ht₀, ht⟩
+  exact pathIntegralFun_trans_of_lt_half ω γab γbc ht₀ ht
+
+theorem pathIntegralFun_trans_of_half_lt (ω : E → E →L[𝕜] F) (γab : Path a b) (γbc : Path b c)
+    (ht₀ : 1 / 2 < t) (ht : t < 1) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:191]: Do you really need `ht` here?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,489 @@
...
+open Metric MeasureTheory unitInterval Topology Set Interval AffineMap Convex Filter
+
+section Defs
+
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] {a b : E}
+
+/-- The function `t ↦ ω (γ t) (γ' t)` which appears in the definition of a path integral.
+
+This definition is used to factor out common parts of lemmas about `Pa -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:60]: Line is not finished.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,489 @@
...
+import Mathlib.Analysis.Calculus.ContDiff.Basic
+import Mathlib.Analysis.Calculus.Deriv.AffineMap
+import Mathlib.Analysis.Calculus.Deriv.Shift
+import Mathlib.Analysis.Normed.Module.Convex
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.Basic
+
+/-!
+# Integral of a 1-form along a path
+
+In this file we define integral of a 1-form along a path
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:15]:
```suggestion
In this file we define the integral of a 1-form along a path indexed by `[0, 1]`
```

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,489 @@
...
+  refine .congr_ae ?_ (pathIntegralFun_trans_aeeq_right _ _ _).symm
+  simpa [ofNat_smul_eq_nsmul] using h.comp_sub_right 1 |>.comp_mul_left 2 |>.smul (2 : 𝕜)
+
+protected theorem PathIntegrable.trans (h₁ : PathIntegrable ω γab) (h₂ : PathIntegrable ω γbc) :
+    PathIntegrable ω (γab.trans γbc) :=
+  (h₁.intervalIntegrable_pathIntegralFun_trans_left γbc).trans
+    (h₂.intervalIntegrable_pathIntegralFun_trans_right γab)
+
+theorem pathIntegral_trans (h₁ : PathIntegrable ω γab) (h₂ : PathIntegrable ω γbc) :
+    ∫ᵖ x in γab.trans γbc, ω x = pathIntegral ω γab + pathIntegral ω γbc := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:225]: You're using the notation for the path integral everywhere, so why not here?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,489 @@
...
+theorem pathIntegralFun_add :
+    pathIntegralFun (ω₁ + ω₂) γ = pathIntegralFun ω₁ γ + pathIntegralFun ω₂ γ := by
+  ext; simp [pathIntegralFun]
+
+protected nonrec theorem PathIntegrable.add (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
+    PathIntegrable (ω₁ + ω₂) γ := by
+  simpa [PathIntegrable] using h₁.add h₂
+
+theorem pathIntegral_add (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
+    pathIntegral (ω₁ + ω₂) γ = (∫ᵖ x in γ, ω₁ x) + ∫ᵖ x in γ, ω₂ x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:311]: use notation also on the left?

Also, could you fix priorities so that you don't need parentheses on the right?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,489 @@
...
+@[simp]
+theorem PathIntegrable.neg_iff : PathIntegrable (-ω) γ ↔ PathIntegrable ω γ :=
+  ⟨fun h ↦ by simpa using h.neg, .neg⟩
+
+@[simp]
+theorem PathIntegrable.fun_neg_iff : PathIntegrable (-ω ·) γ ↔ PathIntegrable ω γ :=
+  PathIntegrable.neg_iff
+
+@[simp]
+theorem pathIntegral_neg : pathIntegral (-ω) γ = -∫ᵖ x in γ, ω x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:358]: use notation?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,489 @@
...
+theorem pathIntegralFun_sub :
+    pathIntegralFun (ω₁ - ω₂) γ = pathIntegralFun ω₁ γ - pathIntegralFun ω₂ γ := by
+  simp [sub_eq_add_neg]
+
+protected nonrec theorem PathIntegrable.sub (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
+    PathIntegrable (ω₁ - ω₂) γ :=
+  sub_eq_add_neg ω₁ ω₂ ▸ h₁.add h₂.neg
+
+theorem pathIntegral_sub (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
+    pathIntegral (ω₁ - ω₂) γ = (∫ᵖ x in γ, ω₁ x) - ∫ᵖ x in γ, ω₂ x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:374]: use notation?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,489 @@
...
+
+@[simp]
+theorem pathIntegralFun_restrictScalars :
+    pathIntegralFun (fun t ↦ (ω t).restrictScalars 𝕝) γ = pathIntegralFun ω γ := by
+  ext
+  letI : NormedSpace ℝ E := .restrictScalars ℝ 𝕜 E
+  simp [pathIntegralFun_def]
+
+@[simp]
+theorem PathIntegrable.restrictScalars_iff :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:395]:
```suggestion
theorem pathIntegrable_restrictScalars_iff :
```
Also, register the direction from right to left with an alias.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,489 @@
...
+@[simp]
+theorem PathIntegrable.smul_iff : PathIntegrable (c • ω) γ ↔ c = 0 ∨ PathIntegrable ω γ := by
+  rcases eq_or_ne c 0 with rfl | hc
+  · simp [PathIntegrable.zero]
+  · simp only [hc, false_or]
+    refine ⟨fun h ↦ ?_, .smul⟩
+    simpa [hc] using h.smul (c := c⁻¹)
+
+@[simp]
+theorem pathIntegral_smul : pathIntegral (c • ω) γ = c • pathIntegral ω γ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:427]: use notation

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,489 @@
...
+
+## Main results
+
+We prove that `pathIntegral` well behaves with respect to
+
+- operations on `Path`s, see `pathIntegral_refl`, `pathIntegral_symm`, `pathIntegral_trans` etc;
+- algebraic operations on 1-forms, see `pathIntegral_add` etc.
+
+We also show that the derivative of `fun b ↦ ∫ᵖ x in Path.segment a b, ω x`
+has derivative `ω` at `b = a`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:46]:
```suggestion
has derivative `ω a` at `b = a`.
```

**Review by sgouezel — COMMENTED** [review]
Looks very good, thanks!

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 9 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:388]: AFAICT, if I use the notation in the LHS, then Lean will simplify using `ContinuousLinearMap.coe_neg'` first. Same in other cases. I don't know if we'll need the unapplied versions though.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 11 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean:425]: I saw `MyNamespace.myProp_iff` here and there and someone told me that this is a Lean 4 style (can't find it now). I'm OK with either naming scheme.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 12 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Same as with `pathIntegral_neg`.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 8 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: See below (`pathIntegral_neg`)

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,519 @@
...
+
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] {a b : E}
+
+/-- The function `t ↦ ω (γ t) (γ' t)` which appears in the definition of a path integral.
+
+This definition is used to factor out common parts of lemmas
+about `PathIntegrable` and `pathIntegral`. -/
+@[irreducible]
+noncomputable def pathIntegralFun (ω : E → E →L[𝕜] F) (γ : Path a b) (t : ℝ) : F :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]:
```suggestion
noncomputable irreducible_def pathIntegralFun (ω : E → E →L[𝕜] F) (γ : Path a b) (t : ℝ) : F :=
```
I think it's a stronger form of irreducibility, that even the kernel can't see through.

File: Mathlib/Analysis/Normed/Module/Basic.lean [hunk 15]
```diff
@@ -461,6 +462,11 @@ See Note [reducible non-instances].
 abbrev NormedSpace.restrictScalars : NormedSpace 𝕜 E :=
   RestrictScalars.normedSpace _ 𝕜' E
 
+theorem NormedSpace.restrictScalars_eq [NormedSpace 𝕜 E] [IsScalarTower 𝕜 𝕜' E] :
+    restrictScalars 𝕜 𝕜' E = ‹_› := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/Module/Basic.lean]:
```suggestion
theorem NormedSpace.restrictScalars_eq {E : Type*} [SeminormedAddCommGroup E]
    [h : NormedSpace 𝕜 E] [NormedSpace 𝕜' E] [IsScalarTower 𝕜 𝕜' E] :
    NormedSpace.restrictScalars 𝕜 𝕜' E = h := by
```
I feel this is much more readable to use a named instance than `‹_›`.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,519 @@
...
+def PathIntegrable (ω : E → E →L[𝕜] F) (γ : Path a b) : Prop :=
+  IntervalIntegrable (pathIntegralFun ω γ) volume 0 1
+
+/-- Integral of a 1-form `ω : E → E →L[𝕜] F` along a path `γ`,
+defined as $\int_0^1 \omega(\gamma(t))(\gamma'(t))$.
+
+The actual definition uses `pathIntegralFun` which uses `Path.extend γ`
+and `derivWithin (Path.extend γ) (Set.Icc 0 1) t`,
+because calculus-related definitions in Mathlib expect globally defined functions as arguments. -/
+@[irreducible]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: ditto

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,519 @@
...
+noncomputable def pathIntegral (ω : E → E →L[𝕜] F) (γ : Path a b) : F :=
+  letI : NormedSpace ℝ F := .restrictScalars ℝ 𝕜 F
+  ∫ t in (0)..1, pathIntegralFun ω γ t
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]:
```suggestion
  ∫ t in 0..1, pathIntegralFun ω γ t
```
Parentheses are not needed any more around zero!

Same thing several times below.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,519 @@
...
+  simp only [pathIntegralFun, NormedSpace.restrictScalars_eq]
+
+theorem pathIntegral_def [NormedSpace ℝ F] (ω : E → E →L[𝕜] F) (γ : Path a b) :
+    pathIntegral ω γ = ∫ t in (0)..1, pathIntegralFun ω γ t := by
+  simp only [pathIntegral, NormedSpace.restrictScalars_eq]
+
+theorem pathIntegral_def' [NormedSpace ℝ E] [NormedSpace ℝ F] (ω : E → E →L[𝕜] F) (γ : Path a b) :
+    pathIntegral ω γ = ∫ t in (0)..1, ω (γ.extend t) (derivWithin γ.extend I t) := by
+  simp only [pathIntegral_def, pathIntegralFun_def]
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Could you also give here that this is also the integral with `deriv` instead of `derivWithin`? I've found both formulas to be useful, depending on the context.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,519 @@
...
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] {a b : E}
+  {ω ω₁ ω₂ : E → E →L[𝕜] F} {γ : Path a b} {t : ℝ}
+
+@[simp]
+theorem pathIntegralFun_add :
+    pathIntegralFun (ω₁ + ω₂) γ = pathIntegralFun ω₁ γ + pathIntegralFun ω₂ γ := by
+  ext; simp [pathIntegralFun]
+
+protected nonrec theorem PathIntegrable.add (h₁ : PathIntegrable ω₁ γ) (h₂ : PathIntegrable ω₂ γ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Could you avoid `nonrec`, spelling out what you really use in the proof? It's often much more readable.

Same thing several times below.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,519 @@
...
+
+The definitions in this file deal with `𝕜`-linear 1-forms.
+This allows us to avoid using `ContinuousLinearMap.restrictScalars`
+in `HasFDerivWithinAt.pathIntegral_segment_source`
+and a future formalization of Poincaré lemma.
+-/
+
+open Metric MeasureTheory Topology Set Interval AffineMap Convex Filter
+open scoped Pointwise unitInterval
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Would you consider namespacing everything, for instance to `ContinuousLinearMap`? There are many notions of path integrals in mathematics, so putting one in the root namespace is maybe not a good idea.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,519 @@
...
+end Algebra
+
+section FDeriv
+
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedSpace 𝕜 E]
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] [CompleteSpace F]
+  {a b : E} {s : Set E} {ω : E → E →L[𝕜] F}
+
+/-- The integral of `ω` along `[a -[ℝ] b]` has derivative `ω a` in `b` at `b = a`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]:
```suggestion
/-- The integral of `ω` along `[a -[ℝ] b]`, as a function of `b`, has derivative `ω a` at `b = a`.
```
Looks clearer to me.

Same thing below.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,519 @@
...
+  letI : NormedSpace ℝ F := .restrictScalars ℝ 𝕜 F
+  simp [pathIntegral_def, intervalIntegral.integral_smul]
+
+@[simp]
+theorem pathIntegral_fun_smul : ∫ᵖ x in γ, c • ω x = c • ∫ᵖ x in γ, ω x := pathIntegral_smul
+
+end Algebra
+
+section FDeriv
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Could you write a small comment here, saying what you are going to prove? If I understand correctly, the derivative of `b -> ∫ᵖ x in .segment a b, ω x` at `a` is indeed `ω a`, but at another point `a'` this is *not* `ω a'` (unless `ω` turns out to be closed, maybe?). If I'm correct, this is worth emphasizing that something subtle is happening here.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,519 @@
...
+variable {𝕜 E F : Type*} [RCLike 𝕜] [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedSpace 𝕜 E]
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] [CompleteSpace F]
+  {a b : E} {s : Set E} {ω : E → E →L[𝕜] F}
+
+/-- The integral of `ω` along `[a -[ℝ] b]` has derivative `ω a` in `b` at `b = a`.
+This is a `HasFDerivWithinAt` version assuming that `ω` is continuous within `s`
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]:
```suggestion
This is a `HasFDerivWithinAt` version assuming that `ω` is continuous within a convex set `s`
```
Same thing below.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,519 @@
...
+in a neighborhood of `a` within `s`. -/
+theorem HasFDerivWithinAt.pathIntegral_segment_source' (hs : Convex ℝ s)
+    (hω : ∀ᶠ x in 𝓝[s] a, ContinuousWithinAt ω s x) (ha : a ∈ s) :
+    HasFDerivWithinAt (∫ᵖ x in .segment a ·, ω x) (ω a) s a := by
+  simp only [HasFDerivWithinAt, hasFDerivAtFilter_iff_isLittleO, Path.segment_same,
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Add a quick proof sketch, maybe?

**Review by sgouezel — COMMENTED** [review]
This is not directly related to `pathELength` (in the file Geometry.Manifold.Riemannian.PathELength) but myabe there are enough similarities that it's worth cross-mentioning them in the file-level docstrings.

Also, you were asking about the right assumptions for reparameterization. The theorem integral_image_eq_integral_deriv_smul_of_monotoneOn could prove useful in this respect -- but it requires differentiability everywhere. If we want piecewise C^1 reparameterization, we could extend the theorem to require only one-sided derivatives.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 20 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: What other notions do we plan to have in Mathlib? I would prefer to have a list in my mind before I agree or disagree about the namespace. I'm aware of:
- this definition;
- special case for paths in `Complex` and functions from `Complex` (possibly, for `RCLike` instead of `Complex`);
- path on a manifold.

What else?

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 14 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Last time I asked, I was told to use `@[irreducible]` unless it causes issues. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Filter.2Egenerate/near/477677734

Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: Yes, and I think it's bad advice. `irreducible_def` is just better, without any drawback I can see.

File: Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean (hunk 20 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/PathIntegral/Basic.lean]: There are also the physics notion of path integrals (Feynman) which sometimes can be given a math interpretation.

Also, integrals along paths of sections of a vector bundle with a connection.

**Comment by urkud** [comment]
I think I followed all the suggestions except for moving everything to a namespace, and opened a Zulip thread about the namespace issue.

File: Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,556 @@
...
+    (h₁.intervalIntegrable_curveIntegralFun_trans_left γbc)
+    (h₂.intervalIntegrable_curveIntegralFun_trans_right γab),
+    intervalIntegral.integral_congr_ae_restrict (curveIntegralFun_trans_aeeq_left _ _ _),
+    intervalIntegral.integral_congr_ae_restrict (curveIntegralFun_trans_aeeq_right _ _ _)]
+  simp only [← ofNat_smul_eq_nsmul (R := ℝ)]
+  rw [intervalIntegral.integral_smul, intervalIntegral.smul_integral_comp_mul_left,
+    intervalIntegral.integral_smul,
+    intervalIntegral.smul_integral_comp_mul_left (f := (curveIntegralFun ω γbc <| · - 1)),
+    intervalIntegral.integral_comp_sub_right]
+  norm_num [curveIntegral_def]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean]: This looks to me like a nonstandard way to use norm_num, a little bit abusing: what you're doing is mainly a simp call, and then using norm_num to conclude. I think it would be clearer with
```suggestion
  simp only [curveIntegral_def]
  norm_num
```

File: Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,556 @@
...
+  · rw [curveIntegrable_segment]
+    refine ContinuousOn.intervalIntegrable_of_Icc zero_le_one fun t ht ↦ ?_
+    refine ((hδ ?_).1.eval_const _).comp AffineMap.lineMap_continuous.continuousWithinAt ?_
+    · refine hsub <| segment_eq_image_lineMap ℝ a b ▸ mem_image_of_mem _ ht
+    · rw [mapsTo_iff_image_subset, ← segment_eq_image_lineMap]
+      exact hs.segment_subset ha hbs
+  · rw [curveIntegrable_segment]
+    exact intervalIntegrable_const
+
+/-- The integral of `ω` along `[a -[ℝ] b]` has derivative `ω a` in `b` at `b = a`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean]: Could you instead mimick the docstring of the previous theorem, which I find much easier to parse?
Same thing for the next theorems.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!!!

**Comment by urkud** [comment]
bors merge
